US08106190B2
In methylene chloride, ethyl 2,6-difluoronicotinate and cyclohexanamine were stirred at 0° C. for 0.5 hour to obtain ethyl 2-(cyclohexylamino)-6-fluoronicotinate (ES: 267). This was stirred in ethanol by adding sodium hydroxide. By concentrating the reaction liquid under a reduced pressure and purifying the resulting residue by silica gel column chromatography, 2-(cyclohexylamino)-6-fluoronicotinic acid was obtained.

reactant | ethyl 2,6-difluoronicotinate | FC1=C(C(=O)OCC)C=CC(=N1)F | C8H7F2NO2
reactant | cyclohexanamine | C1(CCCCC1)N | C6H13N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 2-(cyclohexylamino)-6-fluoronicotinate | C1(CCCCC1)NC1=C(C(=O)OCC)C=CC(=N1)F | C14H19FN2O2
